US05760021
II. Synthesis of Ethyl 2-Diethoxyphosphinyl4-cyano-2-hydroxybutanoate
A mixture of 7.75 g (0.05 mole) of ethyl 4-cyano-2-oxo-butanoate in 31 g (0.225 mole) of diethyl phosphite is stirred at 20°-30° for 3-4 days. The excess diethyl phosphite is removed on a rotary evaporator under high vacuum at a bath temperature of 50°-700 to yield the crude product as an oil. This is purified by chromatography on silica gel.

reactant | ethyl 4-cyano-2-oxo-butanoate | 0.05 mole, 7.75 g | C(#N)CCC(C(=O)OCC)=O | C7H9NO3
reactant | diethyl phosphite | 0.225 mole, 31 g | P(OCC)(OCC)[O-]
product | Ethyl 2-Diethoxyphosphinyl4-cyano-2-hydroxybutanoate | C(C)OP(=O)(C(C(=O)OCC)(CCC#N)O)OCC | C11H20NO6P
